* C:\Users\Rohan\Desktop\aic\AIC_project\analog project\slew rate\slew.asc
M1 N003 N004 N009 0 CMOSN l=6u w=120u
M2 N002 N005 N009 0 CMOSN l=6u w=120u
M5 N009 N007 0 0 CMOSN l=0.5u w=6u
M6 out N002 N001 N001 CMOSP l=0.5u w=100u
M7 out N006 0 0 CMOSN l=0.5u w=80u
V1 N001 0 1.8
I1 N001 N007 20µ
M8 N007 N007 0 0 CMOSN l=0.5u w=6u
V3 N005 N008 0.9
V4 N006 0 0.55
C2 out 0 1p
M3 N003 N003 N001 N001 CMOSP l=7u w=65u
M4 N002 N003 N001 N001 CMOSP l=7u w=65u
L1 out N004 1e17
C1 out P001 0.9p
R1 P001 N002 12k
V2 N008 0 PULSE(0 1.8 0 100p 0 0 1u)
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Rohan\Documents\LTspiceXVII\lib\cmp\standard.mos
.include TSMC_180nm.txt
;op dec 10 1 10g
;ac dec 10 1 10g
.tran 0 50u 1u 1u
.backanno
.end
