* C:\Users\rohan\OneDrive - International Institute of Information Technology (1)\Sem5\AIC\AIC_proj\AIC_project\analog project\small signal\small signal.asc
M1 N003 N004 N009 0 CMOSN l=6u w=120u
M2 N002 N005 N009 0 CMOSN l=6u w=120u
M5 N009 N007 0 0 CMOSN l=0.5u w=6u
M6 out N002 N001 N001 CMOSP l=0.5u w=100u
M7 out N006 0 0 CMOSN l=0.5u w=80u
V1 N001 0 1.8
I1 N001 N007 20µ
M8 N007 N007 0 0 CMOSN l=0.5u w=6u
V3 N005 N008 0.9 AC 1
V4 N006 0 0.55
C2 out 0 1p
M3 N003 N003 N001 N001 CMOSP l=7u w=65u
M4 N002 N003 N001 N001 CMOSP l=7u w=65u
L1 out N004 1e17
C1 out P001 0.9p
R1 P001 N002 12k
V2 N008 0 SINE(0 0.1mV 1k)
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\rohan\Documents\LTspiceXVII\lib\cmp\standard.mos
.include TSMC_180nm.txt
.op
;ac dec 10 1 10g
;tran 0 10m 10u 10u
.backanno
.end
