* C:\Users\rohan\OneDrive - International Institute of Information Technology (1)\Sem5\AIC\AIC_proj\AIC_project\rohan\diff_parmadone.asc
M1 N002 in_p y 0 n18.4 l=1u w=10u
Vdd N001 0 1.8
M3 N002 N002 N001 N001 p18.4 l=10u w=250u
M2 out in_n y 0 n18.4 l=1u w=10u
M4 out N002 N001 N001 p18.4 l=10u w=250u
M5 y N003 0 0 n18.4 l=10u w=170u
M6 N003 N003 0 0 n18.4 l=10u w=170u
I1 N001 N003 27µ
Cl out 0 6p
V1 in_n N004 1.2 AC 1
V2 in_p N005 1.2 AC 1
V3 N004 0 SINE(0 0.0m 1k)
V4 N005 0 SINE(0 -0.0m 1k)
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\rohan\Documents\LTspiceXVII\lib\cmp\standard.mos
.lib 'ts18sl_scl.lib' tt_18
;op
.ac dec 10 1 10G
;tran 0 10m 10u 10u
.backanno
.end
