* C:\Users\Rohan\Desktop\aic\AIC_project\rohan\two stage\psudo\neural.asc
M4 N015 N015 0 0 n18.9 l=3u w=27u ad={5*W*LAMBDA} as={5*W*LAMBDA} pd={10*LAMBDA+2*W} ps={10*LAMBDA+2*W}
Vdd VDD 0 1.8
M10 VDD N009 N010 N006 p18.6 l=1.2u w=1.2u ad={5*W*LAMBDA} as={5*W*LAMBDA} pd={10*LAMBDA+2*W} ps={10*LAMBDA+2*W}
M9 VDD N009 N009 N005 p18.6 l=1.2u w=1.2u ad={5*W*LAMBDA} as={5*W*LAMBDA} pd={10*LAMBDA+2*W} ps={10*LAMBDA+2*W}
M3 N014 N014 0 0 n18.9 l=3u w=27u ad={5*W*LAMBDA} as={5*W*LAMBDA} pd={10*LAMBDA+2*W} ps={10*LAMBDA+2*W}
M1 N010 in_n N014 N010 p18.7 l=180n w=80u ad={5*W*LAMBDA} as={5*W*LAMBDA} pd={10*LAMBDA+2*W} ps={10*LAMBDA+2*W}
M8 VDD N001 N003 VDD p18.9 l=9u w=2u ad={5*W*LAMBDA} as={5*W*LAMBDA} pd={10*LAMBDA+2*W} ps={10*LAMBDA+2*W}
M7 VDD N001 N001 VDD p18.9 l=9u w=2u ad={5*W*LAMBDA} as={5*W*LAMBDA} pd={10*LAMBDA+2*W} ps={10*LAMBDA+2*W}
M5 N001 N014 0 0 n18.9 l=3u w=27u ad={5*W*LAMBDA} as={5*W*LAMBDA} pd={10*LAMBDA+2*W} ps={10*LAMBDA+2*W}
M6 N012 N015 0 0 n18.9 l=3u w=27u ad={5*W*LAMBDA} as={5*W*LAMBDA} pd={10*LAMBDA+2*W} ps={10*LAMBDA+2*W}
Ibias N009 0 8µ
M11 N003 N008 out N003 p18.8 l=0.9u w=90u ad={5*W*LAMBDA} as={5*W*LAMBDA} pd={10*LAMBDA+2*W} ps={10*LAMBDA+2*W}
M12 out P001 N012 N012 n18.9 l=2u w=40u ad={5*W*LAMBDA} as={5*W*LAMBDA} pd={10*LAMBDA+2*W} ps={10*LAMBDA+2*W}
V1 N011 0 SINE(0.01 -25m 1k) AC 1 180
V2 N008 0 -0.2V
V3 P001 0 0.8
V4 N004 0 SINE(0.01 25m 1k) AC 1 0
C1 in_plus N011 200p
C3 in_n N004 200p
C2 in_plus 0 200f
C4 out in_n 200f
Cl out 0 1f
M13 N013 in_plus in_plus N013 p18llb3.0 l=4u w=4u ad=1.8p as=1.8p pd=8.9u ps=8.9u
M14 0 N013 N013 N016 p18llb3.0 l=4u w=4u ad=1.8p as=1.8p pd=8.9u ps=8.9u
M15 N002 in_n in_n N002 p18llb3.0 l=4u w=4u ad=1.8p as=1.8p pd=8.9u ps=8.9u
M16 out N002 N002 N007 p18llb3.0 l=4u w=4u ad=1.8p as=1.8p pd=8.9u ps=8.9u
M2 N010 in_plus N015 N010 p18.7 l=180n w=80u ad={5*W*LAMBDA} as={5*W*LAMBDA} pd={10*LAMBDA+2*W} ps={10*LAMBDA+2*W}
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Rohan\Documents\LTspiceXVII\lib\cmp\standard.mos
.lib 'ts18sl_scl.lib' tt_18
.param L = 1u W=10u n = 1 LAMBDA = 0.09u
.op
.ac dec 1000 1 10G
;dc V3 0 3 0.001
;noise V(out) v1 dec 1000 1 1G
.lib 'ts18sl_scl.lib' tt_18dll
.backanno
.end
