* C:\Users\Rohan\Desktop\aic\AIC_project\rohan\two stage\psudo\psuedo.asc
V1 N001 0 1
M1 0 0 N001 N001 p18llb3.0 l=4u w=4u ad=1.8p as=1.8p pd=8.9u ps=8.9u
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Rohan\Documents\LTspiceXVII\lib\cmp\standard.mos
.lib 'ts18sl_scl.lib' tt_18dll
.dc v1 -1 1 0.01
.backanno
.end
